US06340679B1
(b) (2S)-3-{4-[3-(1,4,5,6-Tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-2-(toluene4-sulfonylamino)-propionic acid tert-butyl ester
295 mg of 4-{4-[(2S)-2-tert-Butoxycarbonyl-2-(toluene-4-sulfonylamino)-ethyl]-phenoxy}-butyric acid ethyl ester were dissolved in 15 ml of anhydrous DMF and 287 mg of 1,4,5,6-tetrahydropyrimidin-2-ylamine were added to the solution. The reaction mixture was stirred overnight at room temperature, and the solvent was removed in vacuo. The residue was dissolved in dichloromethane and washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution. The organic phase was dried with anhydrous magnesium sulfate, filtered and the solvent was removed in vacuo. The residue was chromatographed on silica gel eluting with a gradient of ethyl acetate/isopropanole/water (8/3/1 to 4/3/1). Yield 241 mg. MS: m/e=559.2 (M+H)+; 503.2.

reactant | 4-{4-[(2S)-2-tert-Butoxycarbonyl-2-(toluene-4-sulfonylamino)-ethyl]-phenoxy}-butyric acid ethyl ester | 295 mg | C(C)OC(CCCOC1=CC=C(C=C1)C[C@H](NS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C)=O | C26H35NO7S
reactant | 1,4,5,6-tetrahydropyrimidin-2-ylamine | 287 mg | N1C(=NCCC1)N | C4H9N3
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (2S)-3-{4-[3-(1,4,5,6-Tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-2-(toluene4-sulfonylamino)-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)OCCCC(NC=1NCCCN1)=O)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C28H38N4O6S
